US05371231
12.1 g (0.05 mol) of 4-chloro-3-trifluoromethyl-cinnamonitrile are added to a solution of 7.2 g (0.10 mol) of hydroxylamine hydrochloride, 7.3 g (0.10 mol) of sodium carbonate in 100 ml of water, and 100 ml of ethanol. The mixture is refluxed until the reaction is complete (24 hours) and the entire batch is subsequently stirred into 250 ml of water. The solid which separates out during this process is filtered off with suction, washed with a little water and dried. 5.3 g (39.3% of theory) of (E)-4-chloro-3-trifluoromethyl-cinnamamide oxide are obtained.

reactant | 4-chloro-3-trifluoromethyl-cinnamonitrile | 0.05 mol, 12.1 g | ClC1=C(C=C(C=CC#N)C=C1)C(F)(F)F | C10H5ClF3N
reactant | hydroxylamine hydrochloride | 0.10 mol, 7.2 g | Cl.NO
reactant | sodium carbonate | 0.10 mol, 7.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | (E)-4-chloro-3-trifluoromethyl-cinnamamide oxide | 5.3 g, 39.3% | ClC1=C(C=C(/C=C/C(=O)[NH2]=O)C=C1)C(F)(F)F | C10H7ClF3NO2
